US07897595B2
A solution of 1-tert-butyl 4-ethyl 5-hydroxy-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate (14.11 mmol, 4.02 g) in anhydrous THF (15 ml) was added to a stirred solution of freshly prepared iPr2NLi (43.74 mmol) in anhydrous THF (95 ml) at −78° C. The reaction mixture was stirred at −78° C. for 1 h and HMPA (42.33 mmol, 7.38 ml) was added followed by MeI (14.11 mmol, 0.97 ml). The reaction mixture was slowly warmed to room temperature and stirred overnight before being quenched with sat. aq. NH4Cl. After addition of water, the reaction mixture was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The crude mixture was treated with NH4OAc and MeOH in the same manner described above and furnished 1-tert-butyl 4-ethyl 5-amino-6-methyl-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate in 76% yield. MS (ESI) m/z 299 [M+1]+7-tert-Butyl 3-ethyl 4-hydroxy-9-methyl-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-3,7-dicarboxylate was obtained in comparable yields from 1-tert-butyl 4-ethyl 5-amino-6-methyl-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate applying the cyclization procedure described for the synthesis of tert-butyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate. 1H-NMR (CDCl3) δ 13.97 (1H), 11.54 (1H), 4.47 (2H), 3.94 (1H), 3.82 (1H), 3.41 (1H), 3.15 (3H), 2.61 (1 H), 1.46 (9 H), 1.42 (3H), 1.31 (3H) ppm. tert-Butyl 4-hydroxy-9-methyl-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate was obtained in comparable yields from 7-tert-butyl 3-ethyl 4-hydroxy-9-methyl-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-3,7-dicarboxylate applying the decarboxylation procedure described for the synthesis of tert-butyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate. 1H-NMR (DMSO-d6) δ 10.75 (2H), 5.50 (1H), 3.61 (2H), 3.51 (1H), 3.06 (2H), 2.91 (1H), 2.48 (1H), 1.39 (9 H), 1.12 (3 H) ppm.

reactant | 1-tert-butyl 4-ethyl 5-hydroxy-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate | 14.11 mmol, 4.02 g | OC1=C(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C14H23NO5
reactant | iPr2NLi | 43.74 mmol | N(C(C)C)(C(C)C)[Li]
reactant | HMPA | 42.33 mmol, 7.38 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | MeI | 14.11 mmol, 0.97 ml | CI | CH3I
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | THF | 95 ml | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-ethyl 5-amino-6-methyl-2,3,6,7-tetrahydro-1H-azepine-1,4-dicarboxylate | 76% yield | NC1=C(CCN(CC1C)C(=O)OC(C)(C)C)C(=O)OCC | C15H26N2O4
